Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever, ___ weakness
 
Major Surgical or Invasive Procedure:
B/L knee arthrocentesis ___
 
History of Present Illness:
Ms. ___ is a ___ y/o typically healthy female with a history 
of asthma who initially presented to ___ 1.5 days ago with 
fever, malaise, chills, and aches who now represents with 
continued fevers and ___ weakness and pain.  
At ___ 1.5 days ago she had a broad workup that included a 
negative chest xray, benign labs including LFTs and UA. Flu 
negative on ___. CT abd/pelvis showed mild nonspecific 
retroperitoneal lymphadenopthy. It was thought that she had a 
viral process and she was discharged home.  
She then represented today because despite oral hydration and 
OTC meds at home her fever worsened to 103 with rigors. She 
additioanlly endorsed feeling weak and ill with diffuse muscle 
aches. She reports that it is very difficult walking due to leg 
weakness ___ that developed 2 days prior to 
presentation. She is unsure whether the weakness started 
proximally or distally. She is also unsure if it is true 
weakness or due to the pain. She also notes bilateral knee and 
muscle aches. She notes diarrhea that started on ___ with about 
3 non-bloody episodes per day. Now resolved. Denies cough, URI 
symptoms, nausea, emesis, abdominal pain, urinary symptoms, and 
back pain. No sick contacts. No recent travel. No out of 
ordinary exposures or events recently. No recent weight loss.  
At ___:  
VS T 102.7, 128/84, 20, HR 100, 100% on RA.  
Labs were notable for: Cr 0.9, ALT 44, AST 43, AP 72, TBili 0.6, 
WBC 7.7, CRP 30.3.  
She was given IVFs, tylenol, toradol. Fever improved with 
antipyretics. She was given one dose of ceftriaxone.  
Given concern for epidural abscess as source of fevers in 
setting ___ weakness she was transferred to ___ for MRI.  
In the ___ ___, initial vitals were: T 98.1, HR 94, BP 126/82, 
RR 18, O2 97% RA.  
Exam showed clear lungs, LLE weakness ___ with hip flexion, 
intact rectal tone, and no saddle anesthesia.  
- Labs were significant for lactate 1.1 and UA with 8 RBC, 3 
WBC, and few bacteria.  
- Imaging revealed: MRI without epidural abscess or other acute 
findings.  
- Due to knee pain and effusion her knees were tapped 
bilaterally with fluid studies pending at time of transfer to 
the floor.  
- The patient was given lorazepam 0.5mg x 2.  
Vitals prior to transfer were: T 99.0, HR 88, BP 106/67, RR 14, 
O2 100% RA.  
Upon arrival to the floor, the patient was febrile to 101.3 with 
rigors. She continues to complain of feeling generally unwell 
with significant pain in her ___ starting in her 
buttock and down through her thighs. She also describes severe 
bilateral knee pain L>R.  

 
Past Medical History:
- Asthma, no history of hospitalizations or intubations  

 
Social History:
___
Family History:
Mother - living at age ___, HTN, HLD  
Father - died of "old age", no known medical problems  
Brothers/Sisters: healthy for the most part  

 
Physical Exam:
ON ADMISSION
================
Vitals: T 101.3, BP 120/70, HR 99, RR 20, O2 99% on RA  
General: uncomfortable appearing female lying in bed and 
shaking, moans with movement  
HEENT: NCAT, sclarae anicteric, oropharynx clear wihtout 
erythema or exudate, dry mucous membranes  
NECK: supple, no lymphadenopathy  
Heart: normal RRR, no m/r/g  
Lungs: CTA bilaterally, normal effort of breathing  
Abdomen: soft, NTND, +BS  
Genitourinary: no foley  
Extremities: no edema, warm  
Skin - faint erythematous fine papular rash over inner thigs 
bilaterally and scattered over ___ bilaterally  
Neurological: CN ___ intact, strength of UE ___ ___ 
with decreased strength as follows: LEFT - hip flexor ___, knee 
extension ___, knee flexion ___, ankle dorsiflexion 4+/5, ankle 
plantar flexion 4+/5  
RIGHT - hip flexor ___, knee extension ___, knee flexion ___, 
ankle plantar flextion ___, ankle dorsiflexion ___  
DTR: decreased in ___ at paterllar and ankle  
Babinski with toes down going bilaterally  

ON DISCHARGE
=============
VS: 98.6  ___  70  ___  99-100%RA
General: A&Ox3, sitting up in chair
HEENT: NCAT, EOMI, MMM, no conjunctival injection, PERRL
CV: regular rate, normal rhythm, no murmurs appreciated
Pulm: CTAB; no wheezes, crackles or rhonchi
Abd: soft, non-tender, non-distended
Neuro: CN II-XII grossly intact, ___ strength in bilateral lower 
extremities with normal ROM
Ext: bilateral knees improving in terms of edema, non-tender; 
trace lower extremity edema bilaterally; normal ROM in knees
Skin: resolving fine, erythematous macular rash on bilateral 
arms, anterior thighs; no lesions on acral surfaces

 
Pertinent Results:
___ LABS
Na 137, K 3.8, Cl 103, HCO3 27, BUN 8, Cr 0.9, Glc 109  
ALT 44 -> 43, AST 43 -> 33, AlkP 72 -> 92, TBili 0.3 -> 0.6  
WBC 7.7, Hgb 12.6, Hct 38.9, Plt 107 (from 127)  
85% PMNs, 7% lymphs, 4% monos, 4% eos  
C REACTIVE PROTEIN: 30.3 mg/dL  
___ ___: TSH 0.9  

___ LABS

ON ADMISSION

___ 06:15PM URINE  RBC-8* WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-4
___ 06:15PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-TR
___ 06:15PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 06:15PM URINE  UHOLD-HOLD
___ 06:33PM   LACTATE-1.1
___ 11:28PM JOINT FLUID  ___ RBC-2200* POLYS-80* 
___ MONOS-16 EOS-1*
___ 11:28PM JOINT FLUID  ___ POLYS-74* 
___ ___ 05:45AM BLOOD WBC-7.2 RBC-4.28 Hgb-11.6* Hct-34.2* 
MCV-80* MCH-27.1 MCHC-33.9 RDW-14.2 Plt ___
___ 05:45AM BLOOD Glucose-95 UreaN-10 Creat-0.8 Na-140 
K-3.4 Cl-107 HCO3-22 AnGap-14
___ 05:45AM BLOOD ALT-32 AST-22 LD(LDH)-215 CK(CPK)-50 
AlkPhos-82 TotBili-0.4
___ 05:45AM BLOOD Albumin-2.9* Calcium-7.9* Phos-3.4 Mg-1.7 
UricAcd-3.5 Iron-PND

MICROBIOLOGY
___ Blood culture, joint fluid gram stain, joint fluid 
culture, urine culture - negative
___ Blood culture - negative
___ Blood culture - negative
___ Lyme serology: NO ANTIBODY TO B. BURG___ DETECTED BY 
EIA. 
___ Blood culture - negative
___ Urine gonorrhea, chlamydia probe - negative
___ Blood culture - negative
___ Stool culture, campylobacter - negative

PERTINENT LABS

___ 05:52AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL
___ 07:43AM BLOOD ___
___ 05:45AM BLOOD Parst S-NEGATIVE FOR INTRACELLULAR AND 
EXTRACELLULAR FORMS
___ 06:23AM BLOOD Eos ___
___ 08:30AM BLOOD Eos ___
___ 05:52AM BLOOD Ret Aut-0.6*
___ 05:45AM BLOOD calTIBC-173* Ferritn-177* TRF-133*
___ 05:45AM BLOOD TSH-2.3
___ 05:45AM BLOOD 25VitD-9*
___ 05:45AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE
___ 05:45AM BLOOD ANCA-NEGATIVE B
___ 07:43AM BLOOD CRP-184.1*
___ 05:52AM BLOOD CRP-GREATER TH
___ 05:45AM BLOOD ___ dsDNA-NEGATIVE
___ 05:45AM BLOOD RheuFac-23*
___ 05:45AM BLOOD HIV Ab-NEGATIVE
___    Pre-albumin 13
___    ESR 31
___   ESR 19 
___  PARVOVIRUS B19 IGG ANTIBODY       2.20  H 
___  PARVOVIRUS B19 IgM ANTIBODY       <0.9   
___  QUANTIFERON(R)-TB GOLD        INDETERMINATE
___  SM ANTIBODY                   <1.0 NEG   
___  MI-2 AUTOANTIBODIES           Not detected 
___  CYCLIC CITRULLINATED PEPTIDE AB IGG <16 
___  ___ ANTIBODY                 <1.0 NEG 

ON DISCHARGE

___ 08:30AM BLOOD WBC-6.9 RBC-3.95* Hgb-10.6* Hct-32.7* 
MCV-83 MCH-26.9* MCHC-32.5 RDW-14.9 Plt ___
___ 08:30AM BLOOD Eos ___
___ 08:30AM BLOOD Glucose-165* UreaN-9 Creat-0.7 Na-136 
K-4.6 Cl-99 HCO3-27 AnGap-15
___ 08:30AM BLOOD Calcium-8.5 Phos-3.8 Mg-2.0

IMAGING

___ MRI Cervical, thoracic, lumbar spine
IMPRESSION:
1.  Study is  degraded by motion, especially on postcontrast 
images. 
2. Within limits of study, no definite evidence of epidural 
abscess, phlegmon or discitis / osteomyelitis. Recommend 
clinical correlation. If continued concern for diskitis 
osteomyelitis, consider repeat imaging when patient can tolerate 
examination. 
3. Mild cervical and thoracic lumbar spondylosis as described 
above. 
4. Lumbar spondylosis, with grade 1 anterolisthesis of L3 on L4 
and L5 on S1. There are bilateral pars fractures at L3-L4 and 
likely pars fractures at L5-S1. There is moderate left worse 
than right neural foraminal narrowing at L3-L4. 

___ CXR
IMPRESSION: 
Cardiomediastinal contours are normal. Lung volumes are slightly 
low, 
resulting in crowding of bronchovascular structures.  With this 
limitation in mind, there are no focal areas of consolidation to 
suggest the presence of pneumonia, and no pleural effusions are 
detected. 

___ Right fingers x-ray
IMPRESSION:  
Mild to moderate thumb interphalangeal joint degenerative 
change. There is some associated soft tissue swelling. 
Inflammatory or infectious process is not excluded, but no 
specific features for this are demonstrated. If persistent 
concern, cross-sectional imaging or joint aspiration can be 
performed. 

___ TTE
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. No masses or 
vegetations are seen on the aortic valve. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. No mass or vegetation is seen 
on the mitral valve. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

IMPRESSION: No vegetations or clinically-significant valvular 
disease seen. Normal global and regional biventricular systolic 
function.  

___ CT Abd/pelvis - second opinion
IMPRESSION: 
1. Retroperitoneal lymphadenopathy. Review of the medical record 
states that the patient is being evaluated for a septic joint. 
The lymphadenopathy may be due to a generalized infectious 
process. However differential diagnosis includes lymphoma and 3 
months followup CT is recommended to ensure resolution of the 
lymphadenopathy 
2. Indeterminate hypodense lesion in the liver statistically 
most likely 
represents a hemangioma. MRI could be considered for further 
evaluation if warranted. 
3. Subcentimeter hypodense lesion in the left kidney is too 
small to 
characterize but likely represents a cyst 
4. Small amount of free fluid in the pelvis is likely 
physiologic if the 
patient is premenopausal. Please correlate with patient's 
menstrual history. 

___ Knee, bilateral
IMPRESSION:  
Bilateral effusions greater on the left. Soft tissue swelling 
medial to the left knee. Minimal degenerative changes on the 
left. 

___ Lower extremity ultrasound
IMPRESSION:  
No evidence of deep venous thrombosis in the bilateral lower 
extremity veins. 
 
Brief Hospital Course:
Ms. ___ is a ___ y/o typically healthy female with a history 
of asthma who initially presented to ___ on ___ with fever, 
malaise, and aches who now represents with ongoing fevers, ___ 
weakness and bilateral knee effusions.

# Fever with polyarticular arthritis: Patient presented with 
recurrent fevers and bilateral knee effusions with associated 
decrease in range of motion and weakness in her lower 
extremities. The differential for this was broad. Could be 
related to viral illness (e.g. parvovirus), bacterial infection 
(patient with high fevers and rigors rising concern for 
bacteremia and ___ positive blood cultures) vs tick-borne 
illness (negative parasite smear) vs. malignancy (in the setting 
of retroperitoneal lymphadenopathy) vs. secondary to 
rheumatologic process. Arthrocentesis performed in the ___ 
showed right knee with 40,000 WBC and 16,000 RBC and left knee 
with 32,000 WBC and 2200 RBC. Though this was not quite in range 
for septic arthritis, it was felt to be possible since she did 
reiceve one dose ceftriaxone at ___ before arhtrocentesis 
was performed in ___. Due to suspicious for septic 
arthritis, she was empirically covered with vancomycin and 
ceftriaxone from ___ while awaiting culture data. Her 
arthrocentesis gram stain and culture remains negative, however, 
and ___ blood cultures positive from ___ with 
coagulase-negative staphylococcus, which was felt to represent 
contamination. Due to unusual presentation of bilateral joint 
effusions concerning for spetic arthritis, she underwent TTE to 
rule out endocarditis; however this showed no vegetations. She 
was also seen by Rheumatology consult. Multiple lab tests for 
Rheumatologic work-up were sent (e.g. ___, anti-dsDNA, 
___, anti-CCP antibody), but none came back positive. 
Infectious Disease consultation recommended discontinuing 
antibotics, which was done on ___. She was afebrile off of 
antibiotics, and range of motion in both knees improved over 
time, as did her strength (of note, CK was WNL). She did have a 
very elevated CRP, however, with low ESR, in conjunction with 
prominent effusions of both knees, which was puzzling to all 
teams in terms of elucidating the etiology of her illness. Her 
effusions and pain limited her mobility, so she worked with 
Physical Therapy to improve her strength and balance. Overall, 
she likely had post-infectious arthritis (inciting source is 
unclear, but her history is notable for a likely 
viral-prodrome); her response was somewhat consistent with 
viral-mediated vs reactive arthritis. She had been afebrile for 
multiple days on discharge, and was not requiring analgesia. She 
was asked to use tylenol and NSAIDs for pain control, and 
follow-up with Rheumatology as an outpatient.

# Rash: Patient presented with a rash consisting of 
erythematous, non-pruritc macules and papules spread over her 
anterior chest and her extensor surfaces, especially on her 
upper thighs. This was felt to be likely a viral exanthem given 
diffuse involvement without pruritus in setting of acute illness 
vs. drug rash in setting of exposure to cephalexin (given 
eosinophilia and improvement once cephalexin was stopped). This 
was not a typical plaque with eczematous rash as can be seen in 
reactive arthritis, or in sun-exposed areas as would be seen in 
lupus. Possibilities also included salmonella rash (light pink, 
over anteiror chest near shoulder), but stool culture was 
negative. On discharge, her rash was resolving and beginning to 
fade.

# Thrombocytopenia: Admitted with placelet count of 118. Likely 
decreased production due to viral illness versus acute 
infection. No splenomegaly on recent imaging. Thin and thick 
smear negative for parasite. No spherocytes or schistocytes on 
smear. Resolved on discharge.

# Normocytic anemia: Patient is a menstruating female, but 
arrived with hemoglobin of 11.6 on admission. Iron studies were 
consistent with anemia of chronic disease, especially given 
ferritin > 90. No evidence of schistocytes on smear. This was 
trended and stable.

# Retroperitoneal Lymphadenopathy: Noted on CT at ___ done on 
___. This was felt to be mild and non-specific. While it is 
rare, hematologic malignancy (lymphoma) can present with 
retroperitoneal lymphadenopathy. Her LDH was normal, and HIV 
negative. Urinalysis showed mildly active sediment. Overall, 
this was felt to be reactive lymphadenopathy in the setting of 
infection. The patient should have repeat imaging done to assess 
for resolution in 3 months, however.

TRANSITIONAL ISSUES:
- low vitamin D (9), started repletion with 50,000 units weekly 
starting ___
- consider work-up for hypovitaminosis D with PTH, anti-tTG 
antibody
- 3 months followup CT of the abdomen and pelvis is recommended 
to ensure resolution of retroperitoneal lymphadenopathy 
- consider MRI to evaluate likely liver hemangioma
- Labs pending at discharge: MI-2 AUTOANTIBODIES, PRE-ALBUMIN
- CODE STATUS: Full (confirmed)  
- CONTACT: Primary - ___, daughter ___ Secondary - 
___, husband, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheeze 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Acetaminophen 1000 mg PO Q8H:PRN pain or fever 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0
3. Ibuprofen 400-600 mg PO Q8H:PRN pain 
RX *ibuprofen 400 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0
4. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0
5. Vitamin D 50,000 UNIT PO 1X/WEEK (SA) 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth weekly Disp #*4 Capsule Refills:*0
6. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheeze 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- INFLAMMATORY ARTHRITIS (Post-infectious arthritis)

SECONDARY DIAGNOSIS
- RETROPERITONEAL LYMPHADENOPATHY
- VITAMIN D DEFICIENCY
- ANEMIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___.

You came to the hospital becasue you had fevers, your legs were 
weak, and your knees were swollen. At the hospital, we drained 
fluid from your knees and you felt a little bit better. Our 
doctors examined ___, and we got a chest x-ray which was normal, 
and an x-ray of your thumb. Although we did not find a specific 
culprit behind your symptoms, we believe that your illness was 
caused by an infection that led to what is called a 
"post-infectious arthritis". Your symptoms should continue to 
improve over time. As a result, we are sending you home with a 
prescription for naproxen to help control your pain.

We also found that you are deficient in Vitamin D during this 
hospitalization. We recommend that you take 50,000 units of 
vitamin D once a week, and follow-up with your primary care 
physician regarding this issue.

You were incidentally noted to have enlarged lymph nodes in your 
abdomen, which may have been caused by your recent infection.  
Radiology recommends a repeat CT of your abdomen in 3 months 
time to ensure resolution of these enlarged lymph nodes.  If 
they persist, further workup may need to be done.

We ask that you take your medications, and follow up with your 
providers as below.

We wish you all the best!
-Your ___ Care Team 
 
Followup Instructions:
___